US03932644
2-Chloro-4-ethoxyquinoline (3.72 gms) and 5-(2-aminoethyl)thiomethyl-4-methylimidazole (3.1 g.) were heated together at 150°-160°C (oil-bath temperature) for 3 hours. The residue, on colling, was washed with water and dried. Purification was effected by column chromatography (silica gel column, ethyl acetate-5% methanol eluant) and crystallisation from acetone to give 2-[2-(4-methyl-5-imidazolylmethylthio)ethylamino]-4-ethoxyquinoline (1.86 gms) m.p. 152.5°-153.5°C.

reactant | 2-Chloro-4-ethoxyquinoline | 3.72 gms | ClC1=NC2=CC=CC=C2C(=C1)OCC | C11H10ClNO
reactant | 5-(2-aminoethyl)thiomethyl-4-methylimidazole | 3.1 g | NCCSCC1=C(N=CN1)C | C7H13N3S
product | 2-[2-(4-methyl-5-imidazolylmethylthio)ethylamino]-4-ethoxyquinoline | 1.86 gms | CC=1N=CNC1CSCCNC1=NC2=CC=CC=C2C(=C1)OCC | C18H22N4OS
